US06831080B2
Preparation of (S)-[4-(3-{1-[3-(3,4-Difluoro-phenyl)-acryloylamino]-ethyl}-phenyl)-morpholin-2-ylmethyl]-carbamic acid tert-butyl ester
Mixture of (S)-{4-[3-(1-amino-ethyl)-phenyl]-morpholin-2-ylmethyl}-carbamic acid tert-butyl ester, Preparation 28 (20 mg, 0.06 mmol), 3,4-difluorocinnamic acid (12.1 mg, 0.07 mmol), EDC (23 mg, 0.12 mmol), DMAP (7.3 mg, 0.06 mmol), triethylamine (0.03 ml, 0.24 mmol) in dichloromethane (0.6 ml) was stirred at room temperature overnight. The reaction mixture was purified by filtering through 2 g silica-gel syringe with 80% ethyl acetate/hexanes. The filtrate was concentrated under vacuum to provide the title compound as a white solid.

reactant | (S)-{4-[3-(1-amino-ethyl)-phenyl]-morpholin-2-ylmethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@H]1CN(CCO1)C1=CC(=CC=C1)C(C)N)=O | C18H29N3O3
reactant | 3,4-difluorocinnamic acid | 0.07 mmol, 12.1 mg | FC=1C=C(C=CC(=O)O)C=CC1F | C9H6F2O2
reactant | EDC | 0.12 mmol, 23 mg
reactant | triethylamine | 0.24 mmol, 0.03 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.06 mmol, 7.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
product | (S)-[4-(3-{1-[3-(3,4-Difluoro-phenyl)-acryloylamino]-ethyl}-phenyl)-morpholin-2-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC[C@H]1CN(CCO1)C1=CC(=CC=C1)C(C)NC(C=CC1=CC(=C(C=C1)F)F)=O)=O | C27H33F2N3O4
